US07598397B2
Synthesis of 7-(2,4-Dichloro-phenoxy)-5-fluoro-3-methyl-1H-indole, I-198B.
Following general method A-18, 7-Bromo-5-fluoro-3-methyl-1H-indole (1.60 g, 7.02 mmol) was reacted with 2,4-dichlorophenol (1.72 g, 10.5 mmol), CuI (134 mg, 0.702 mmol), N,N-dimethylglycine hydrochloride (293 mg, 2.10 mmol), and Cs2CO3 (4.57 g, 14.0 mmol) in anhydrous dioxane (14 mL). The crude product was purified by silica gel column chromatography utilizing a solvent system of 5% EtOAc/Hexanes to yield 746 mg of I-198B as a yellow oil (34%). 1H NMR (400 MHz, CDCl3)

reactant | 7-Bromo-5-fluoro-3-methyl-1H-indole | 7.02 mmol, 1.60 g | BrC=1C=C(C=C2C(=CNC12)C)F | C9H7BrFN
reactant | 2,4-dichlorophenol | 10.5 mmol, 1.72 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | N,N-dimethylglycine hydrochloride | 2.10 mmol, 293 mg | Cl.CN(CC(=O)O)C
reactant | Cs2CO3 | 14.0 mmol, 4.57 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.702 mmol, 134 mg | [Cu]I
product | 7-(2,4-Dichloro-phenoxy)-5-fluoro-3-methyl-1H-indole | 34% | ClC1=C(OC=2C=C(C=C3C(=CNC23)C)F)C=CC(=C1)Cl | C15H10Cl2FNO
